US07507726B2
(3R)-3-(5-hexen-1-yl)-N-benzoxy-2-azetidinone
To a mixture of (2R)-2-(hydroxymethyl)-N-benzoxy-7-octenamide (1.51 g, 5.47 mmol) and triphenylphosphine (1.72 g, 6.56 mmol) in THF (50 mL) was added dropwise diisopropyl azodicarboxylate (1.3 mL, 6.56 mmol) at 0° C. The reaction mixture was stirred and allowed to warm to room temperature overnight. The reaction was then quenched with water (50 mL). The aqueous layer was extracted with EtOAc (50 mL×2). The combined organic layers were washed with brine, and dried over MgSO4. After removing the solvent under vacuum, the residue was purified by flash column chromatography (hexane:EtOAc 6/1) to provide the title compound. MH+260.

reactant | (2R)-2-(hydroxymethyl)-N-benzoxy-7-octenamide | 5.47 mmol, 1.51 g | OC[C@H](C(=O)NOCC1=CC=CC=C1)CCCCC=C | C16H23NO3
reactant | triphenylphosphine | 6.56 mmol, 1.72 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | diisopropyl azodicarboxylate | 6.56 mmol, 1.3 mL | N(=NC(=O)OC(C)C)C(=O)OC(C)C | C8H14N2O4
solvent | THF | 50 mL | C1CCOC1 | C4H8O
product | (3R)-3-(5-hexen-1-yl)-N-benzoxy-2-azetidinone | C(CCCC=C)[C@H]1C(N(C1)OCC1=CC=CC=C1)=O | C16H21NO2
